US08207281B2
1.2 2-Methyl-4-(N-methyl phenylamino)indene
Pd(dba)2 (0.25 g, 0.4 mmol, 1.4 mol %), PtBu3 (0.11 g, 0.5 mmol, 1.8 mol %), NaOtBu (4.5 g, 45.4 mmol, 1.5 eq), 2-methyl-4-chloroindene (5 g, 30 mmol, 1 eq) and N-methyl phenylamine (3.25 g, 30 mmol, 1 eq.) were mixed together and stirred at 70° C. After 2 h of stirring, the reaction was cooled down and H2O was added. The formed layers were separated and the organic phase was washed with NH4C1 and H2O. The organic layer was then dried over MgSO4, filtered and concentrated. Chromatography over SiO2 (Hexan/CH2Cl2:2/1) gave a green oil (4.9 g) in 68% yield.

reactant | NaOtBu | 45.4 mmol, 4.5 g, 1.5 eq | CC(C)(C)[O-].[Na+]
reactant | 2-methyl-4-chloroindene | 30 mmol, 5 g, 1 eq | CC=1CC2=CC=CC(=C2C1)Cl | C10H9Cl
reactant | N-methyl phenylamine | 30 mmol, 3.25 g, 1 eq. | CNC1=CC=CC=C1 | C7H9N
catalyst | Pd(dba)2 | 0.4 mmol, 0.25 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
catalyst | PtBu3 | 0.5 mmol, 0.11 g | P(C(C)(C)C)(C(C)(C)C)C(C)(C)C | C12H27P
solvent | H2O | O | H2O
product | 2-Methyl-4-(N-methyl phenylamino)indene | 4.9 g, 68% yield | CC=1CC2=CC=CC(=C2C1)N(C)C1=CC=CC=C1 | C17H17N
